US05338857
In 130 ml of acetic acid, 19 g (93.6 mmol) of 5-(1-hydroxypropyl)-3-phenylisoxazole were dissolved. A solution which had been obtained by dissolving 6.4 g (64 mmol) of chromic acid in a mixed solution of 50 ml of acetic acid and 10 ml of water was added dropwise. The reaction mixture was heated at 60° C. for 3 hours and the solvent was distilled off under reduced pressure. The residue thus obtained was poured in ice water. Colorless crystals precipitated were collected by filtration and then dried under reduced pressure. The crystals were purified by chromatography on a silica gel (eluent:2:8 hexane/chloroform), whereby 5-propionyl-3-phenylisoxazole was obtained as colorless crystals. Analytical results of the crystals obtained: Yield: 17.5 g (93.2%). Melting point: 111°-112° C.

reactant | 5-(1-hydroxypropyl)-3-phenylisoxazole | 93.6 mmol, 19 g | OC(CC)C1=CC(=NO1)C1=CC=CC=C1 | C12H13NO2
reactant | chromic acid | 64 mmol, 6.4 g | [Cr](=O)(=O)(O)O
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 5-propionyl-3-phenylisoxazole | C(CC)(=O)C1=CC(=NO1)C1=CC=CC=C1 | C12H11NO2
